US05288720
2-Butyl-6-[(trimethylsilyl)ethynyl]-4(1H)-quinazolinone
To a solution of 1.0 g of 2-butyl-6-iodo-4(1H)-quinazolinone 0.043 g of bis(triphenylphosphine) palladium (II) chloride and 5.8 mg of copper (I) iodide in 5.0 ml of N,N-dimethylformamide and 5.0 ml of triethylamine is added 0.36 g of (trimethylsilyl) acetylene. The resulting reaction mixture is heated at 45° C. for 1 hour and then 65° C. for 5 hours. Upon cooling, the reaction mixture is concentrated in vacuo and the residue purified by flash chromatography on silica gel, eluting with 1:3 ethyl acetate-hexane to yield 0.75 g of the desired product as a white solid. CI MASS SPEC 299(MH+).

reactant | 2-butyl-6-iodo-4(1H)-quinazolinone | 1.0 g | C(CCC)C=1NC2=CC=C(C=C2C(N1)=O)I | C12H13IN2O
reactant | (trimethylsilyl) acetylene | 0.36 g | C[Si](C)(C)C#C | C5H10Si
solvent | N,N-dimethylformamide | 5.0 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 5.0 ml | C(C)N(CC)CC | C6H15N
catalyst | bis(triphenylphosphine) palladium (II) chloride | [Pd](Cl)Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
catalyst | copper (I) iodide | 5.8 mg | [Cu]I
product | 2-Butyl-6-[(trimethylsilyl)ethynyl]-4(1H)-quinazolinone | 0.75 g | C(CCC)C=1NC2=CC=C(C=C2C(N1)=O)C#C[Si](C)(C)C | C17H22N2OSi
